US08835431B2
d. (5-tert-Butyl-[1,3,4]oxadiazol-2-yl)-carbamic acid 2,2,2-trichloro-ethyl ester (Intermediate 5d)
To a suspension of 5-tert-butyl-[1,3,4]oxadiazol-2-ylamine (Atlantic, 141 mg, 1.00 mmol) and Et3N (279 μL, 2.00 mmol) in MeCN (2 mL), 2,2,2-trichloroethyl chloroformate (207 μL, 1.50 mmol) was added in 4 portions over 1 min at RT (CARE: exotherm to ˜40° C.). The resulting suspension was stirred for 1 h. The suspension was filtered, washing the solid with MeCN (3 mL), and concentrated to leave a yellow-brown paste. Purification by FCC, using 0-2.5% MeOH in DCM, gave a buff foam (232 mg, 73%). 1H NMR (400 MHz, CDCl3): 1.42 (9H, s), 4.86 (2H, s).

reactant | 5-tert-butyl-[1,3,4]oxadiazol-2-ylamine | 1.00 mmol, 141 mg | C(C)(C)(C)C1=NN=C(O1)N | C6H11N3O
reactant | Et3N | 2.00 mmol, 279 μL | CCN(CC)CC | C6H15N
reactant | 2,2,2-trichloroethyl chloroformate | 1.50 mmol, 207 μL | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | MeCN | 2 mL | CC#N | C2H3N
product | (5-tert-Butyl-[1,3,4]oxadiazol-2-yl)-carbamic acid 2,2,2-trichloro-ethyl ester | 232 mg, 73% | ClC(COC(NC=1OC(=NN1)C(C)(C)C)=O)(Cl)Cl | C9H12Cl3N3O3
